US07666888B2
5-(2-Chlorophenyl)-N,N-diethylisoxazole-4-carboxamide
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and diethylamine (4.4 mg, 0.060 mmol) as described in synthetic method A and thereafter purified by preparative HPLC method A to give a solid (3.8 mg). MS (pos) m/z 279.1 (M+1).

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | diethylamine | 0.060 mmol, 4.4 mg | C(C)NCC | C4H11N
product | 5-(2-Chlorophenyl)-N,N-diethylisoxazole-4-carboxamide | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N(CC)CC | C14H15ClN2O2
